US06525204B1
b) Preparation of N,N-diphenyl-3-hydroxyamino-2-methyl-4-methylsulfonyl-benzamide
A solution of 0.7 g (6.9 mmol) of n-butyl nitrite (97%) and 2 g (5.3 mmol) of N,N-diphenyl-2,3-dimethyl-4-methylsulfonyl-benzamide in 30 ml of dimethylformamide is cooled to from −55 to −60° C., and a solution of 1.4 g (12 mmol) of potassium tert-butoxide in 10 ml of dimethylformamide is added dropwise at this temperature, over a period of 20 minutes. The reaction is monitored by HPLC. For work-up, initially 10 ml of water are added, and the mixture is then adjusted to pH 5-6 using glacial acetic acid. The mixture is then poured onto 100 ml of ice-water and the aqueous phase is extracted with ethyl acetate. The organic phase is washed with sodium bicarbonate solution, dried over magnesium sulfate and concentrated. This gives 3.0 g of a partially crystalline crude product, which is purified by silica gel chromatography using the mobile phase toluene/acetone.

reactant | n-butyl nitrite | 6.9 mmol, 0.7 g | N(=O)OCCCC | C4H9NO2
reactant | N,N-diphenyl-2,3-dimethyl-4-methylsulfonyl-benzamide | 5.3 mmol, 2 g | C1(=CC=CC=C1)N(C(C1=C(C(=C(C=C1)S(=O)(=O)C)C)C)=O)C1=CC=CC=C1 | C22H21NO3S
reactant | potassium tert-butoxide | 12 mmol, 1.4 g | CC(C)([O-])C.[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-diphenyl-3-hydroxyamino-2-methyl-4-methylsulfonyl-benzamide | C1(=CC=CC=C1)N(C(C1=C(C(=C(C=C1)S(=O)(=O)C)NO)C)=O)C1=CC=CC=C1 | C21H20N2O4S
